US07847039B2
2-Bromothiophene (7.2 g, 43.9 mmol), 2-methoxyphenylboronic acid (6.7 g, 43.9 mmol), palladium acetate (0.14 g, 0.62 mmol), triphenylphosphine (0.6 mg, 2.3 mmol) and potassium phosphate (9.40 g, 44.3 mmol) were added to a flask. A mixture solution of 10 mL of water and 40 mL of dimethoxyethane was added and reflux was performed for 6 hours. After cooling to room temperature, aqueous ammonium chloride solution (50 mL) and diethyl ether (100 mL) were added. The organic layer was separated. After extracting the residue using diethyl ether, the collected organic layer was dried with magnesium sulfate. After removing volatile materials, followed by purification via silica gel chromatography using hexane, 7.9 g (yield: 95%) of 2-(2′-methoxyphenyl)thiophene was obtained as colorless liquid.

reactant | 2-Bromothiophene | 43.9 mmol, 7.2 g | BrC=1SC=CC1 | C4H3BrS
reactant | 2-methoxyphenylboronic acid | 43.9 mmol, 6.7 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium phosphate | 44.3 mmol, 9.40 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
catalyst | palladium acetate | 0.62 mmol, 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 2.3 mmol, 0.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | dimethoxyethane | 40 mL | C(OC)COC | C4H10O2
solvent | water | 10 mL | O | H2O
product | 2-(2′-methoxyphenyl)thiophene | 7.9 g, yield: 95% | COC1=C(C=CC=C1)C=1SC=CC1 | C11H10OS
